US04863482
Preparation of 2,6-diamino-4-methoxynitrobenzene
0.024 mole (4.5 g) of 2,6-diamino-4-chloronitrobenzene in 9 ml of N-methylpyrrolidone and 22.5 ml of 30% sodium methylate in methanol were refluxed for 4 hours 30 minutes. Upon dilution of the reaction medium with water, the desired product precipitated out. After filtering, water washing and vacuum drying in the presence of P2O5, the product obtained was recrystallized from toluene; a black insoluble product was eliminated by hot filtration. The desired product melted at 140° C.

reactant | 2,6-diamino-4-chloronitrobenzene | 0.024 mole, 4.5 g | NC1=C(C(=CC(=C1)Cl)N)[N+](=O)[O-] | C6H6ClN3O2
reactant | N-methylpyrrolidone | 9 ml | CN1C(CCC1)=O | C5H9NO
solvent | sodium methylate | 22.5 ml | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2,6-diamino-4-methoxynitrobenzene | NC1=C(C(=CC(=C1)OC)N)[N+](=O)[O-] | C7H9N3O3
